US08242134B2
4-Acetyl-3-{[(S)-cyclopropyl-(3-fluoro-phenyl)-methyl]-amino}-8-fluoro-isochromen-1-one
A mixture of 2-({[(S)-cyclopropyl-(3-fluoro-phenyl)-methyl]-carbamoyl}-methyl)-6-fluoro-benzoic acid (12.92 g, 37.41 mmol) and acetic anhydride (100 mL, 1 mol) was stirred at +65° C. for 20 hours and evaporated in vacuo (65° C., 10 mbar, 2 hours) to give the title compound as a thick brown oil, which was used in the next step without purification (14.30 g, yield 103.5%, purity 95% according to 1H NMR). LC-MS (m/z) 370.1 (MH+); tR=1.65. 1H NMR (500 MHz, DMSO-d6): 0.45-0.59 (m, 3H), 0.64 (m, 1H), 1.41 (m, 1H), 2.53 (s, 3H), 4.36 (t (unres. dd), 1H), 7.03 (dd, J=8.3, 10.7 Hz, 1H), 7.12 (dt, J=1.9, 8.5 Hz, 1H), 7.27 (d, J=10.2 Hz, 1H), 7.3 (d, J=7.8 Hz, 1H), 7.42 (q, J=7.8 Hz, 1H), 7.53 (d, 8.5 Hz, 1H), 7.7 (m, 1H), 11.3 (d, J=7.3 Hz, 1H, NH).

reactant | 2-({[(S)-cyclopropyl-(3-fluoro-phenyl)-methyl]-carbamoyl}-methyl)-6-fluoro-benzoic acid | 37.41 mmol, 12.92 g | C1(CC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)CC1=C(C(=O)O)C(=CC=C1)F | C19H17F2NO3
reactant | acetic anhydride | 1 mol, 100 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetyl-3-{[(S)-cyclopropyl-(3-fluoro-phenyl)-methyl]-amino}-8-fluoro-isochromen-1-one | yield 103.5% | C(C)(=O)C1=C(OC(C2=C(C=CC=C12)F)=O)N[C@H](C1=CC(=CC=C1)F)C1CC1 | C21H17F2NO3
